US05017573
Preparation of (1,4-dimethylhexahydro-1H-1,4-diazepin-6-yl) 1H-indazole-3-carboxylate:
To a solution of 1,4-dimethy-6-hydroxy- hexahydro-1H-1,4-diazepine (1.9 g) in anhydrous tetrahydrofuran (10 ml), a solution of n-butyllithium in hexane (9.4 g) is added dropwise under nitrogen stream at 25° C., and the mixture is stirred for 30 minutes at the same temperature. To the reaction mixture is added dropwise, the reaction mixture prepared by the following method; to a solution of 1H-indazole-3-carboxylic acid (2.0 g) in anhydrous N,N-dimethylformamide (20 ml), N,N'-carbonyldiimidazole (2.0 g) is added at 25° C., and the mixture is heated at 80° C. for 4.5 hours and cooled to 25° C. The resulting reaction mixture is refluxed with stirring for 1 hour. Tetrahydrofuran is evaporated under reduced pressure, and the residue is diluted with water, extracted with diethyl ether. The organic layer is washed with saturated sodium chloride solution and dried over magnesium sulfate. The solvent is evaporated under reduced pressure, and the residue is chromatographed on silica gel with elution of chloroform-methanol (9:1). Fractions containing the title compound are pooled and evaporated under reduced pressure to give the title compound (2.4 g) as an oil. The free base is converted to 5/2 fumarate 1/4 ethanol of the title compound in a usual manner, m.p. 184-185° C. (recrystallized from ethanol).

reactant | 1,4-dimethy-6-hydroxy- hexahydro-1H-1,4-diazepine | 1.9 g | CN1CCN(CC(C1)O)C | C7H16N2O
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1H-indazole-3-carboxylic acid | 2.0 g | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | 9.4 g | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (1,4-dimethylhexahydro-1H-1,4-diazepin-6-yl) 1H-indazole-3-carboxylate | 2.4 g | N1N=C(C2=CC=CC=C12)C(=O)OC1CN(CCN(C1)C)C | C15H20N4O2
